*
* Ac-DC converter
*

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
*Vs 1 0 0 sin(0 10 50)

*Envelope detector
*Da1 1 2 Default
*Da2 0 2 Default
*Da3 6 0 Default
*Da4 6 1 Default
*Ra1 2 0 1k
*Ca1 2 0 1000u

*Voltage regulator
*Rb1 2 3 3k
*Db1 3 4 Default
*Db2 4 5 Default
*Db3 5 6 Default
*Db4 6 7 Default
*Db5 7 8 Default
*Db6 8 9 Default
*Db7 9 10 Default
*Db8 10 11 Default
*Db9 11 12 Default
*Db10 12 13 Default
*Db11 13 14 Default
*Db12 14 15 Default
*Db13 15 16 Default
*Db14 16 17 Default
*Db15 17 18 Default
*Db16 18 19 Default
*Db17 19 20 Default
*Db18 20 21 Default

*----13.364824 
Vi 1 0 0 sin(0 13.41149 50)
Da1 1 2 Default
Da2 0 2 Default
Da3 6 0 Default
Da4 6 1 Default

*----10 10
Ra1 2 6 100k
Ca1 2 6 100u


Rb1 2 3 100k
Dbp1 3 3b Default
Dbp2 3b 3c Default
Dbp3 3c 3d Default
Dbp4 3d 6 Default
Dbn1 6 6b Default
Dbn2 6b 6c Default
Dbn3 6c 6d Default
Dbn4 6d 3 Default



.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


******************************************
* analise no tempo
tran 3e-3 1.3 1.0

print maximum(v(2)-v(6))
print mean(V(2)-v(6))
print abs(mean(V(2)-v(6)-12))
print abs({maximum(v(2)-v(6)) - minimum (v(2)-v(6))})
print 1./((abs(mean(V(2)-V(6)-12)) + abs(maximum(v(2)-v(6)) - minimum (v(2)-v(6))) + 0.000001)*(0.1*9 + 300))
*plot  v(3) 11 12 13 v(2)
*plot v(2)-v(6)

******************************************
*hardcopy t3out.ps v(3)
*hardcopy t3env.ps v(2)



.endc